2180-03-31 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2180-3-31**] 12:33 AM
 MULTI LUMEN - START [**2180-3-31**] 12:34 AM
 NASAL SWAB - At [**2180-3-31**] 02:09 AM
   msra
   .
   - Back to OR and got ORIF, tolerated well. In PACU, intubated on
   propofol with 0.5mcg/kg/hr of Neo. Got: 1500cc EBL, 700mL pRBC, 212
   platelets, 275 of FFP, 1600 crystalloid. ABG intraop okay. Intraop Hct
   27.7. Stable and resuscitated.
   - Arrived on floor ~ MN, Hct stable, INR 1.9
   - Postop CXR: Total whiteout of right hemithorax with moderate
   right-sided mediastinal shift. Emergency clearance for airways
   suggested.
   - Repeat CXR much improved in right lung fields
   - Liver recs, restart Liver meds via NG post-op
   - IP recs:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2180-3-31**] 02:10 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-31**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 80 (74 - 81) bpm
   BP: 87/46(60) {87/46(60) - 122/59(81)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.2 kg (admission): 106.2 kg
    CVP: 13 (10 - 13)mmHg
   Total In:
                                                                     41 mL
                                                                  4,195 mL
   PO:
   TF:
   IVF:
                                                                     16 mL
                                                                  2,063 mL
   Blood products:
                                                                     25 mL
                                                                  2,132 mL
   Total out:
                                                                    300 mL
                                                                  4,655 mL
   Urine:
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -259 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 471 (471 - 557) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.46/38/86/27/2
   Ve: 7.6 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   44 K/uL
   7.4 g/dL
   102 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.1 mEq/L
   17 mg/dL
   104 mEq/L
   138 mEq/L
   20.1 %
   2.5 K/uL
        [image002.jpg]
                             [**2180-3-31**]  02:01 AM
                             [**2180-3-31**]  02:46 AM
   WBC
   2.5
   Hct
   20.1
   Plt
   44
   Cr
   1.1
   TCO2
   28
   Glucose
   102
   Other labs: PT / PTT / INR:23.8/44.0/2.3, ALT / AST:[**12-7**], Alk Phos / T
   Bili:79/6.8, Lactic Acid:1.9 mmol/L, Albumin:3.7 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   56 yo M c Hep C cirrhosis on tx list, h/o CVA with R-sided weakness,
   HTN p/w progressive volume overload, worsening ascites, L-sided pleural
   effusion, and hematuria; s/p paracentesis x 1, thoracentesis x 2 with
   in-hospital fall with subsequent L femoral neck fracture; admitted now
   to MICU from PACU for hypotension.
   .
   # L femoral head fracture: Patient with traumatic fracture while
   inpatient.  Patient CP class C and a high operative risk for a high
   risk procedure.  Patient underwent ORIF yesterday and tolerated well.
    - Follow-up orthopedic recs
   .
   # Respiratory failure: Patient intubated for surgery, but then acutely
   decompensated due to lateral decubitus position.  Could be [**3-14**] pleural
   effusion vs ET tube placement.  Improved s/p large volume
   thoracentesis.  Repeat CXR improved last evening on  mechanical
   ventilation.
   - Pressure Support trial this morning, doing well. Will try SBT and
   possible extubation today
   - Continue Ipratroprium Nebs
   - Follow-up IP recs if any (transudative effusion)
   - Continue diuretics to decrease ascites burden
   .
   # Hep C cirrhosis - MELD 19 on admission
 ____ today. Patient on
   transplant list. No suspicion for SBP at this time given lack of
   abdominal pain and/or fevers.
   - liver function appears stable at this time. Slight bump in TBili
   likely in setting of surgery, continued liver disease. Will follow
   - Trend MELD labs daily
   - Restarted cipro for SBP ppx post-operatively
   - Restarted lactulose, rifaximin post-operatively
   - Hold lasix, aldactone, nadolol for now given intubation, will likely
   restart today
   .
   # Hematuria - Resolving spontaneously with no evidence of obstruction
   or clots. Hct 33.3 on admission, stable from Hct checked 3-4 weeks ago.
   Initially suspected to be spontaneous bleed in setting of
   thrombocytopenia / coagulopathy [**3-14**] cirrhosis.
   - CBI / 3 way Foley if evidence of obstruction/clots
   - trend Hct q6hours post-operatively
   - Continue active type and screen
   .
   # Thrombocytopenia - Platelet 39 on admission. Represents low end of
   baseline over past several years. Likely [**3-14**] hepatic dysfunction.
   Transfused platelets while inpatient, unclear if became more hypoxic
   immediately following transfusion. Received one unit platelets
   yesterday and another post-operatively today
    - Continue to monitor
    - Transfuse if bleeding or PRN intervention
    - Review records for transfusion reaction.
   .
   # Anemia - Chronic, stable.  No e/o bleeding beyond hematuria.
    - Monitor closely post-op Q6H Hct given coagulopathy
 likely q8h
   today
    - Active T&S
   .
   # FEN: Consider IVF if not extubate / replete Mg now / NPO
   # PPX: PPI, pneumoboots, bowel regimen on hold for OR
   # ACCESS: RIJ [**3-30**], R arterial line [**3-30**]
   # CODE: FULL (per OMR)
   # CONTACT: patient, wife [**Name (NI) **] (HCP) [**Telephone/Fax (3) 13453**]
   # DISPO: pending above
 FRACTURE, OTHER
   left hip
 FALL(S)
   fx right ankle by history  [**12-19**]
 CEREBROVASCULAR DISEASE, OTHER
   CVA [**2175**] with residual right sided weakness, progressive LE weakness
 HEPATITIS, CHRONIC VIRAL
   hepatitis C
 PLEURAL EFFUSION, ACUTE
   thorocentesis [**2180-3-30**] for 2.5 liters
 LIVER FUNCTION ABNORMALITIES
   on transplant team
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 COAGULOPATHY
 ASCITES
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2180-3-31**] 12:33 AM
   20 Gauge - [**2180-3-31**] 12:33 AM
   Multi Lumen - [**2180-3-31**] 12:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2180-03-31 09:45:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   see my paper note from yesterday
   24 Hour Events:
 ARTERIAL LINE - START [**2180-3-31**] 12:33 AM
 MULTI LUMEN - START [**2180-3-31**] 12:34 AM
 NASAL SWAB - At [**2180-3-31**] 02:09 AM
   msra
   To OR for repair.
   To ICU from PACU late last night.
   Bronch this morning
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2180-3-31**] 02:10 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Propofol - [**2180-3-31**] 08:40 AM
   Other medications:
   SQH, MDIs, cefazolin, albumin, blood products, neo @ 0.4, propofol,
   fentanyl, vit K
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-3-31**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 71 (71 - 81) bpm
   BP: 101/50(68) {87/46(60) - 122/59(81)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.2 kg (admission): 106.2 kg
   CVP: 12 (9 - 14)mmHg
   Total In:
                                                                     41 mL
                                                                  4,634 mL
   PO:
   TF:
   IVF:
                                                                     16 mL
                                                                  2,096 mL
   Blood products:
                                                                     25 mL
                                                                  2,538 mL
   Total out:
                                                                    300 mL
                                                                  4,745 mL
   Urine:
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -259 mL
                                                                   -111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 535 (471 - 557) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.46/38/86/27/2
   Ve: 9.1 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: right)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, Tone: Normal
   Labs / Radiology
   7.4 g/dL
   44 K/uL
   102 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.1 mEq/L
   17 mg/dL
   104 mEq/L
   138 mEq/L
   20.1 %
   2.5 K/uL
        [image002.jpg]
                             [**2180-3-31**]  02:01 AM
                             [**2180-3-31**]  02:46 AM
   WBC
   2.5
   Hct
   20.1
   Plt
   44
   Cr
   1.1
   TCO2
   28
   Glucose
   102
   Other labs: PT / PTT / INR:23.8/44.0/2.3, ALT / AST:[**12-7**], Alk Phos / T
   Bili:79/6.8, Lactic Acid:1.9 mmol/L, Albumin:3.7 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   56-year-old man with cirrhosis admitted for dyspnea/pleural effusion
   and hematuria now POD1 s/p hip repair from fall.
   Respiratory failure
   Keep intubated while transfusing (large volume)
   Bronch showed no major endobronchial disease
 some B.I. malacia, some
   mucus.
   Hold off on further thoracentesis/paracentesis right now.
   Anemia / Coagulopathy/Thrombocytopenia
   Suspect this is related to blood loss with hip repair.  However,
   maintain vigilance for other bleeding sites
 place OG tube.
   Transfuse PRBCs, platelets, FFP.  Check fibrinogen, ionized calcium,
   etc.
   Discuss DVT prophylaxis with ortho (?hold, ?LMWH)
   Hypotension / Shock
   Actually seems centrally well perfused.  However, concerned that there
   may be some component of hypovolemia and we are transfusing
   aggressively.  No evidence of sepsis at this point.
   Cirrhosis
   Place OG and begin lactulose/rifaxamin
   Communication
   Called and discussed with wife this morning approx 8a
 CEREBROVASCULAR DISEASE, OTHER
   CVA [**2175**] with residual right sided weakness, progressive LE weakness
 HEPATITIS, CHRONIC VIRAL
   hepatitis C
   ICU Care
   Nutrition: unless moving to extubation, begin TF
   Glycemic Control:
   Lines:
   Arterial Line - [**2180-3-31**] 12:33 AM
   20 Gauge - [**2180-3-31**] 12:33 AM
   Multi Lumen - [**2180-3-31**] 12:34 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   Seen multiple times throughout day.
   Met with pt
s wife.  Updated.  [**Name2 (NI) **] questions answered.
   Initial measurement of Hct showed inappropriate bump.  Platelets close
   to 50, INR now below 2.  Measurement of fibrinogen pending.
   Still requiring neosynephrine.  CVP about 11.
   Will transfuse further with PRBCs.  Recheck coags, platelets, Ca++,
   fibrinogen and replete as needed.  Check random cortisol.
   Leave intubated while actively transfusing.
   Critically ill: 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2180-3-31**] 18:55 ------

2180-04-01 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2180-3-31**] 08:35 AM
 BAL FLUID CULTURE - At [**2180-3-31**] 08:45 AM
 EKG - At [**2180-3-31**] 09:51 AM
   - Neo from 0.4 -> 0.2, develops MAP 50 -> back to Neo 0.5
   - Hct 20 -> 2 units pRBC -> 23 -> 1 unit pRBC -> 26.5 -> 2 units pRBC
   ->
   - INR 2.3 and platelets 44 -> 2 units FFP -> INR 1.9 and platelets 47
   -> 1 unit platelets, 1 FFP -> INR 1.9 and platelets 46
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2180-3-31**] 05:45 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2180-3-31**] 08:40 AM
   Heparin Sodium (Prophylaxis) - [**2180-3-31**] 05:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-4-1**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 82 (70 - 88) bpm
   BP: 111/57(76) {74/43(58) - 126/65(86)} mmHg
   RR: 18 (11 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.2 kg (admission): 106.2 kg
   Height: 72 Inch
    CVP: 11 (8 - 16)mmHg
   Total In:
                                                                  7,680 mL
                                                                    790 mL
   PO:
   TF:
                                                                    237 mL
                                                                    243 mL
   IVF:
                                                                  2,601 mL
                                                                     82 mL
   Blood products:
                                                                  4,642 mL
                                                                    465 mL
   Total out:
                                                                  5,085 mL
                                                                    185 mL
   Urine:
                                                                    545 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,595 mL
                                                                    605 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 591 (535 - 649) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.43/42/139/29/3
   Ve: 8.6 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: No acute distress, Sedated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, No expanding hematoma left hip
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   53 K/uL
   10.1 g/dL
   130 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.7 mEq/L
   21 mg/dL
   106 mEq/L
   140 mEq/L
   28.3 %
   4.8 K/uL
        [image002.jpg]
                             [**2180-3-31**]  02:01 AM
                             [**2180-3-31**]  02:46 AM
                             [**2180-3-31**]  12:11 PM
                             [**2180-3-31**]  05:28 PM
                             [**2180-4-1**]  02:00 AM
                             [**2180-4-1**]  02:12 AM
   WBC
   2.5
   3.9
   5.1
   4.8
   Hct
   20.1
   23.6
   26.3
   28.3
   Plt
   44
   47
   46
   53
   Cr
   1.1
   1.1
   TCO2
   28
   29
   Glucose
   102
   130
   Other labs: PT / PTT / INR:20.0/38.0/1.8, ALT / AST:7/36, Alk Phos / T
   Bili:86/10.8, Fibrinogen:149 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:3.7
   g/dL, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Imaging: [**4-1**] CXR: Pending
   Microbiology: [**3-31**] Bronchial washings: 4+ PMNs. No Microorganisms.
   Culture pending
   [**3-29**] Pleural fluid: GS: No PMNs or microorganisms. Culture NGTD
   Assessment and Plan
   56 yo M c Hep C cirrhosis on tx list, h/o CVA with R-sided weakness,
   HTN p/w progressive volume overload, worsening ascites, L-sided pleural
   effusion, and hematuria; s/p paracentesis x 1, thoracentesis x 2 with
   in-hospital fall with subsequent L femoral neck fracture; admitted now
   to MICU from PACU for hypotension.
   .
   # Respiratory failure: Patient intubated for surgery, but then acutely
   decompensated due to lateral decubitus position.  Could be [**3-14**] pleural
   effusion vs ET tube placement.  Improved s/p large volume
   thoracentesis.  Repeat CXR improved last evening on  mechanical
   ventilation. Had bronch.
   - Pressure Support trial this morning, doing well. Will try SBT and
   possible extubation today
   - Continue Ipratroprium Nebs
   - Follow-up IP recs if any (transudative effusion)
   - f/u BAL
   # Hypotension: On pressors while on vent. Had blood loss in OR. Tends
   to run low.
   - receiving pRBCs
   - Hold diuretics given low pressures
   - touch base with liver team re his b/l pressures
   - wean neo as tolerated
   .
   # L femoral head fracture: Patient with traumatic fracture while
   inpatient.  Patient CP class C and a high operative risk for a high
   risk procedure.  Patient underwent ORIF yesterday and tolerated well.
    - Follow-up orthopedic recs
   # Hep C cirrhosis - MELD 19 on admission
 24 today. Patient on
   transplant list. No suspicion for SBP at this time given lack of
   abdominal pain and/or fevers.
   - liver function appears stable at this time. Slight bump in TBili
   likely in setting of surgery, continued liver disease. Will follow
   - Trend MELD labs daily
   - Restarted cipro for SBP ppx post-operatively
   - Cannot get lactulose, rifaximin while intubated, unless we drop NG
   tube. Has risks (known varices) but we should have gastric access
   - Hold lasix, aldactone, nadolol for now given intubation, will likely
   restart when extubated and pressures stable
   .
   # Hematuria - Resolving spontaneously with no evidence of obstruction
   or clots. Hct 33.3 on admission, stable from Hct checked 3-4 weeks ago.
   Initially suspected to be spontaneous bleed in setting of
   thrombocytopenia / coagulopathy [**3-14**] cirrhosis.
   - CBI / 3 way Foley if evidence of obstruction/clots
   - trend Hct q6hours post-operatively
   - Continue active type and screen
   .
   # Thrombocytopenia - Platelet 39 on admission, 44 today. Likely [**3-14**]
   hepatic dysfunction.  Transfused platelets while inpatient, unclear if
   became more hypoxic immediately following transfusion. Received one
   unit platelets yesterday and another post-operatively today
    - Continue to monitor
   - Platelet transfusions and vitamin K, FFP
    - Review records for transfusion reaction.
   .
   # Anemia
 Chronic anemia but also post-op, has esophageal varices. Hct
   20.1 this AM.
    - Monitor closely post-op Q6H Hct given coagulopathy
 likely q8h
   today
    - Active T&S
   - getting 1 unit pRBCs this morning for post-op losses, pressor demand,
   will continue to replete to hct of 30
   - check for DIC
   - place OG for nutrition, for lavage to r/o UGIB in setting of dropping
   hct
   # Hematuria: His presenting complaint, now resolved.
   .
   # FEN: Consider IVF if not extubated / replete Mg now / start tube
   feeds tonight
   # PPX: PPI, pneumoboots, bowel regimen on hold for OR
   # ACCESS: RIJ [**3-30**], R arterial line [**3-30**]
   # CODE: FULL (per OMR)
   # CONTACT: patient, wife [**Name (NI) **] (HCP) [**Telephone/Fax (3) 13453**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2180-3-31**] 12:33 AM
   20 Gauge - [**2180-3-31**] 12:33 AM
   Multi Lumen - [**2180-3-31**] 12:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2180-04-02 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2180-4-1**] 12:02 PM
   .
   - Extubated
   - NG tube placed, tube feeds started
   - Hyperbilirubinemia fractionated: Indirect Bili 7.9. Also, haptoglobin
   < 5, c/w hemolysis
   - Fibrinogen 146 s/o low-grade DIC
   - Hct stable at 30.5 -> 31.8 -> 30.7; no transfusions since 0400
   yesterday morning; Subcutaneous heparin restarted
   - INR stable at 1.8 -> 1.8
   - PM platelets stable at 49 (<- 53)
   - No new hepatology recs
   - Ortho recs: transfuse to Hct > 30
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2180-4-2**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-4-2**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36
C (96.8
   HR: 79 (79 - 92) bpm
   BP: 107/54(74) {102/49(70) - 147/69(94)} mmHg
   RR: 20 (17 - 42) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.2 kg (admission): 106.2 kg
   Height: 72 Inch
    CVP: 7 (7 - 10)mmHg
   Total In:
                                                                  1,979 mL
                                                                    513 mL
   PO:
   TF:
                                                                    786 mL
                                                                    102 mL
   IVF:
                                                                    468 mL
                                                                    381 mL
   Blood products:
                                                                    465 mL
   Total out:
                                                                    637 mL
                                                                    190 mL
   Urine:
                                                                    637 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,342 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 638 (472 - 822) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.43/39/107/32/1
   Ve: 11.5 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   40 K/uL
   10.8 g/dL
   120 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.7 mEq/L
   22 mg/dL
   107 mEq/L
   141 mEq/L
   30.7 %
   3.3 K/uL
        [image002.jpg]
                             [**2180-3-31**]  12:11 PM
                             [**2180-3-31**]  05:28 PM
                             [**2180-4-1**]  02:00 AM
                             [**2180-4-1**]  02:12 AM
                             [**2180-4-1**]  09:44 AM
                             [**2180-4-1**]  09:46 AM
                             [**2180-4-1**]  11:12 AM
                             [**2180-4-1**]  03:10 PM
                             [**2180-4-1**]  03:14 PM
                             [**2180-4-2**]  02:00 AM
   WBC
   3.9
   5.1
   4.8
   4.3
   3.3
   Hct
   23.6
   26.3
   28.3
   30.5
   31.8
   30.7
   Plt
   47
   46
   53
   49
   40
   Cr
   1.1
   0.9
   TCO2
   29
   28
   28
   27
   Glucose
   130
   120
   Other labs: PT / PTT / INR:20.8/40.2/1.9, ALT / AST:3/38, Alk Phos / T
   Bili:85/7.5, Fibrinogen:110 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:3.7
   g/dL, LDH:217 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   56 yo M c Hep C cirrhosis on tx list, h/o CVA with R-sided weakness,
   HTN p/w progressive volume overload, worsening ascites, L-sided pleural
   effusion, and hematuria; s/p paracentesis x 1, thoracentesis x 2 with
   in-hospital fall with subsequent L femoral neck fracture; admitted now
   to MICU from PACU for hypotension.
   .
   # Respiratory failure: Improving gases and mentation. Extubated
   yesterday without issues
   - Continue Ipratroprium Nebs
   - f/u IP recs
   - f/u BAL
   - NG tube in place and tolerating tube feeds
   # Hypotension: Improved now that extubated and off pressors. Generally
   SBP runs in the 110s. Received pRBCs yesterday
   - Continue to hold diuretics for now
   .
   # Anemia
 Chronic anemia but also post-op w/EBL 1,500, has esophageal
   varices. After 6 units pRBCs and 3 FFPs only a 10-point jump in hct,
   from 20.6 -> 30.5. Could be bleeding into hip.
   - Q8H Hct
   - Active T&S
   - continue to replete to hct of 30
   - add hemolysis labs
   # L femoral head fracture: Patient with traumatic fracture while
   inpatient.  Patient CP class C and a high operative risk for a high
   risk procedure.  Patient underwent ORIF and tolerated well.
    - Follow-up orthopedic recs
   # Hep C cirrhosis - MELD 19 on admission, 24 today. Patient on
   transplant list. No suspicion for SBP at this time given lack of
   abdominal pain and/or fevers.  Slight bump in TBili likely in setting
   of surgery, continued liver disease, multiple transfusions.
   - fractionated Bili and haptoglobin suggestive of hemolysis, fibrinogen
   suggestive of low-grade DIC
 not uncommon in liver patients; continue
   to monitor
   - Trend MELD labs daily
   - Restarted cipro for SBP ppx post-operatively
   - Restart his PO meds lactulose, rifaximin and aggressive high calorie
   tube feeds
   - Hold lasix, aldactone, nadolol for now, given blood pressures
   .
   # Thrombocytopenia - Platelet 44-> 53 today s/p 2 transfusions. Likely
   [**3-14**] hepatic dysfunction. Transfused platelets while inpatient.
   - Continue to monitor
   - Platelet transfusions to target of >50, will transfuse again this
   morning
   .
   # Fibrinogenemia
 150. If remains low, needs cryo.
   .
   # Hematuria: His presenting complaint, now resolved.
   .
   # FEN: Consider IVF if not extubated / replete Mg now / start tube
   feeds tonight
   # PPX: PPI, pneumoboots; likely change to SCH tonight, bowel regimen on
   hold for OR, cipro for SBP ppx
   # ACCESS: RIJ [**3-30**], R arterial line [**3-30**]
   # CODE: FULL (per OMR)
   # CONTACT: patient, wife [**Name (NI) **] (HCP) [**Telephone/Fax (3) 13453**]
   # DISPO: ICU
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPOXEMIA
 MALNUTRITION
 FRACTURE, OTHER
   left hip
 FALL(S)
   fx right ankle by history  [**12-19**]
 CEREBROVASCULAR DISEASE, OTHER
   CVA [**2175**] with residual right sided weakness, progressive LE weakness
 HEPATITIS, CHRONIC VIRAL
   hepatitis C
 PLEURAL EFFUSION, ACUTE
   thorocentesis [**2180-3-30**] for 2.5 liters
 LIVER FUNCTION ABNORMALITIES
   on transplant team
 IMPAIRED SKIN INTEGRITY
 IMPAIRED PHYSICAL MOBILITY
 COAGULOPATHY
 ASCITES
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2180-3-31**] 12:33 AM
   20 Gauge - [**2180-3-31**] 12:33 AM
   Multi Lumen - [**2180-3-31**] 12:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2180-04-03 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2180-4-2**] 11:01 AM
 ARTERIAL LINE - STOP [**2180-4-3**] 12:00 AM
   [**4-1**]:
   - Extubated
   - NG tube placed, tube feeds started
   - Hyperbilirubinemia fractionated: Indirect Bili 7.9. Also, haptoglobin
   < 5, c/w hemolysis
   - Fibrinogen 146
   - Hct stable at 30.5 -> 31.8 -> 30.7; no transfusions since 0400 this
   morning; Subcutaneous heparin restarted
   - INR stable at 1.8 -> 1.8
   - PM platelets stable at 49 (<- 53)
   - No new hepatology recs
   - Ortho recs: transfuse to Hct > 30
   .
   [**4-2**]:
   - Ankle films: Rt oblique tibula/fibula shows sig displacement (7mm)
   with impaction. Callous formation so likely old, healing. Per rads, can
   cause knee fx. Per wife, casted at [**Hospital3 1959**] and in rehab Xweeks, no
   knee px. Ortho aware.
   - Meh resp status today (wheezy, slightly labored): CE and EKG neg
   - NG tube re-placed
   - Hct stable, plt 40, 1 unit --> 29, 26, 37; still holding heparin SQ
   - Abdominal u/s w/ mild ascites on left but no pockets to drain yet
   - Restarted spironolactone
   - IV Lasix 60mg IV X2, great diuresis
   - IP recs: Call if c/f worsening pleural effusion req repeat tap
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2180-4-3**] 01:57 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2180-4-2**] 06:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-4-3**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**82**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 89 (79 - 93) bpm
   BP: 126/69(82) {113/60(73) - 126/75(87)} mmHg
   RR: 19 (17 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.2 kg (admission): 106.2 kg
   Height: 72 Inch
    CVP: 9 (5 - 15)mmHg
   Total In:
                                                                  2,235 mL
                                                                    618 mL
   PO:
   TF:
                                                                    416 mL
                                                                    371 mL
   IVF:
                                                                    759 mL
                                                                    137 mL
   Blood products:
                                                                    811 mL
   Total out:
                                                                  4,415 mL
                                                                    245 mL
   Urine:
                                                                  3,565 mL
                                                                    245 mL
   NG:
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                 -2,180 mL
                                                                    373 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   Jaundiced, awake, NAD, AOx2 (name, place, month & date correct but
   insists [**2165**], then [**2090**]. [**Last Name (un) 3309**] is president.) NG. Restraints.
   CTA
   S1 S2
   Soft NT ND
   Warm extremities
   Labs / Radiology
   31 K/uL
   10.7 g/dL
   130 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.7 mEq/L
   20 mg/dL
   108 mEq/L
   144 mEq/L
   31.6 %
   2.2 K/uL
        [image002.jpg]
   MELD 20
                             [**2180-4-1**]  09:44 AM
                             [**2180-4-1**]  09:46 AM
                             [**2180-4-1**]  11:12 AM
                             [**2180-4-1**]  03:10 PM
                             [**2180-4-1**]  03:14 PM
                             [**2180-4-2**]  02:00 AM
                             [**2180-4-2**]  02:00 PM
                             [**2180-4-2**]  03:59 PM
                             [**2180-4-2**]  06:00 PM
                             [**2180-4-3**]  02:26 AM
   WBC
   4.3
   3.3
   2.8
   2.8
   2.2
   Hct
   30.5
   31.8
   30.7
   31.5
   30.7
   31.6
   Plt
   49
   40
   29
   26
   37
   31
   Cr
   0.9
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   28
   28
   27
   Glucose
   120
   99
   130
   Other labs: PT / PTT / INR:18.7/36.0/1.7, CK / CKMB /
   Troponin-T:85/3/<0.01, ALT / AST:3/38, Alk Phos / T Bili:85/7.5,
   Fibrinogen:119 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:3.7 g/dL, LDH:217
   IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   56M  Hep C cirrhosis on tx list, h/o CVA with R-sided weakness, HTN p/w
   progressive volume overload, worsening ascites, L-sided pleural
   effusion, and hematuria; s/p paracentesis x 1, thoracentesis x 2 with
   in-hospital fall with subsequent L femoral neck fracture; admitted now
   to MICU from PACU for hypotension.
   # Respiratory failure: Improving gases and mentation. Diuresed 2 L off
   with Spironolactone 200 mg PO QD, Lasix 60 mg IV yesterday x 2, this AM
   x 1.
   - PM lytes for aggressive diuresis with goal of negative 1-2 L
   - Continue Ipratroprium & albuterol Nebs
   - f/u IP recs
   - f/u BAL
   - NG tube in place and tolerating tube feeds
   - Consider paracentesis if ascites visualizable with U/S
   # L femoral head fracture: Patient with traumatic fracture while
   inpatient.  Patient CP class C and a high operative risk for a high
   risk procedure.  Patient underwent ORIF and tolerated well.
    - Follow-up orthopedic recs; try to aim for Hct>30 and INR close to
   1.5
   # Hep C cirrhosis - MELD 19 on admission, 20 today (25% of 90-day
   mortality). No suspicion for SBP at this time given lack of abdominal
   pain and/or fevers.  Slight bump in TBili likely in setting of surgery,
   continued liver disease, multiple transfusions.
   - fractionated Bili and haptoglobin suggestive of hemolysis, fibrinogen
   suggestive of low-grade DIC -- not uncommon in liver patients; continue
   to monitor. More confused this morning with concern for worsening
   encephalopathy
   - Trend MELD labs daily
   - Restarted cipro for SBP ppx
   - Restart his PO meds lactulose, rifaximin and aggressive high calorie
   tube feeds
   - Restarted nadolol and spironolactone yesterday with good effect
   # Leukopenia: Drifting down. Add diff to AM labs.
   .
   # Anemia
 Chronic anemia but also post-op w/EBL 1,500, has esophageal
   varices. No transfusions required x 2 days. Hemolysis apparent on labs.
   Crit stable.
   - hct QS
   - Active T&S
   .
   # Thrombocytopenia
 platelets transfused -> Platelets 26 -> 1 unit
   platelets -> 37, bumped 11 (so not refractory), this AM down to 31.
   Likely [**3-14**] hepatic dysfunction and splenic sequestration
   - Continue to monitor
   - Platelet transfusions to target of >30, will transfuse again this
   morning
   .
   # Fibrinogenemia
 171. If remains low, may benefit from
   cryoprecipitate
   .
   # Hematuria: His presenting complaint. Has been stable since transfer
   to MICU. Should pursue outpatient urology evaluation.
   # Hypotension: Resolved, off pressors.
   # FEN: Tube feeds
   # PPX: Pneumoboots, consider restarting SCH. Bowel regimen, cipro for
   SBP ppx
   # ACCESS: RIJ [**3-30**], 20 Gauge - [**2180-3-31**] 12:33 AM
   Multi Lumen - [**2180-3-31**] 12:34 AM
   # CODE: FULL (per OMR)
   # CONTACT: patient, wife [**Name (NI) **] (HCP) [**Telephone/Fax (3) 13453**]
   # DISPO: call out to [**Hospital Ward Name 289**] 10 ([**Doctor Last Name 976**]-[**Doctor Last Name 2578**])